US08957064B2
4-(2-Dimethylamino-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde
To 200 mg 4-(2-bromo-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde (prepared as described above) in 6 mL DMF were added 0.24 mL of a dimethylamine solution (60% in water). The mixture was heated under microwave irradiation to 100° C. for 2.5 hours. The solvent was removed and the solid residue is was treated with ethyl acetate/petrolether (1:1) and stirred for 2 hours. The desired product was filtered, dried and was used without further purification.

reactant | 4-(2-bromo-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 200 mg | BrC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C18H11BrN4O
reactant | dimethylamine | 0.24 mL | CNC | C2H7N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-(2-Dimethylamino-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde | CN(C1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1)C | C20H17N5O
